US06596751B2
4-(1-Methyl-6-methoxy-1H-benzimidazole-2-ylmethoxy)phenyllactic acid (exemplification compound number 1-177)
A mixture of methyl 4-(1-methyl-6-methoxy-1H-benzimidazol-2-ylmethoxy)phenyllactate (0.15 g), concentrated hydrochloric acid (2 ml) and dioxane (2 ml) was heated at reflux for 3 hours. The reaction mixture was concentrated and the water of the residue was removed by azeotropic distillation in dioxane and the crystals were isolated by filtration to afford the title compound (0.15 g, mp 216-218° C.).

reactant | methyl 4-(1-methyl-6-methoxy-1H-benzimidazol-2-ylmethoxy)phenyllactate | 0.15 g | CN1C(=NC2=C1C=C(C=C2)OC)COC2=CC=C(C=C2)C(C(=O)OC)(O)C | C20H22N2O5
reactant | hydrochloric acid | 2 ml | Cl | ClH
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | 4-(1-Methyl-6-methoxy-1H-benzimidazole-2-ylmethoxy)phenyllactic acid | 0.15 g | CN1C(=NC2=C1C=C(C=C2)OC)COC2=CC=C(C=C2)C(C(=O)O)(O)C | C19H20N2O5
